US08222245B2
3-[9-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoic acid
Ethyl 3-[9-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoate (Preparation 92) (40 mg, 0.084 mmol) was dissolved in ethanol (5 ml). 2M sodium hydroxide (0.210 ml, 0.420 mmol) was added and the reaction mixture stirred at 60° C. for 4 hours. The solvent was evaporated, then the reaction mixture was diluted with water, neutralised with 2M hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water, dried and evaporated to give the product as a colourless solid (16 mg).

reactant | Ethyl 3-[9-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoate | 0.084 mmol, 40 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC=CC=2CN(CCOC21)CCC(=O)OCC | C26H28N4O5
reactant | sodium hydroxide | 0.420 mmol, 2M, 0.210 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-[9-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoic acid | 16 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC=CC=2CN(CCOC21)CCC(=O)O | C24H24N4O5
